US09210927B2
Preparation of (E)-5-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2,3-dihydro-1H-inden-1-one (BI3)
5-(1-Bromo-2,2,2-trifluoroethyl)-1,2,3-trichlorobenzene (4 g, 11.7 mmol), 5-vinyl-2,3-dihydro-1H-inden-1-one (0.92 g, 5.8 mmol), CuCl (0.115 g, 1.171 mmol) and 2,2-bipyridyl (0.053 g, 0.34 mmol) in 1,2-dichlorobenzene (25 mL) were heated at 180° C. for 16 h. The reaction mixture was cooled to 25° C. and concentrated under reduced pressure. The residue was purified by flash column chromatography (SiO2, 5% EtOAc in petroleum ether) to afford the title compound as a liquid (1.28 g, 25%): 1H NMR (400 MHz, CDCl3) δ 7.76 (d, J=7.4 Hz, 1H), 7.52 (m, 3H), 6.68 (d, J=7.4 Hz, 1H), 6.52 (m, 1H), 4.18 (m, 1H), 3.18 (m, 2H), 2.75 (m, 2H); ESIMS m/z 419.14 ([M+H]−); IR (thin film) 1708.94, 1113.60, 807.77 cm−1.

reactant | 5-(1-Bromo-2,2,2-trifluoroethyl)-1,2,3-trichlorobenzene | 11.7 mmol, 4 g | BrC(C(F)(F)F)C=1C=C(C(=C(C1)Cl)Cl)Cl | C8H3BrCl3F3
reactant | 5-vinyl-2,3-dihydro-1H-inden-1-one | 5.8 mmol, 0.92 g | C(=C)C=1C=C2CCC(C2=CC1)=O | C11H10O
reactant | 2,2-bipyridyl | 0.34 mmol, 0.053 g | N1=C(C=CC=C1)C1=NC=CC=C1 | C10H8N2
solvent | 1,2-dichlorobenzene | 25 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
catalyst | CuCl | 1.171 mmol, 0.115 g | Cl[Cu]
product | (E)-5-(4,4,4-Trifluoro-3-(3,4,5-trichlorophenyl)but-1-enyl)-2,3-dihydro-1H-inden-1-one | 1.28 g, 25% | FC(C(/C=C/C=1C=C2CCC(C2=CC1)=O)C1=CC(=C(C(=C1)Cl)Cl)Cl)(F)F | C19H12Cl3F3O
